US09035073B2
3-(3-chloro-4-fluorophenyl)-3-methoxypyrrolidine
Preparation according to Preparation 15. Tert-butyl-3-(3-chloro-4-fluorophenyl)-3-methoxypyrrolidin-1-carboxylate (1.81 g, 5.5 mmol), methylene chloride (20 mL) and trifluoroacetic acid (5 mL). Purification on a Biotage Isolute SCX-3 SPE column (washed with methanol and eluted with methanol/triethylamine, 4:1) gave the title compound (1.11 g, 88%). MS m/z (rel. intensity, 70 eV) 214 (38), 199 (73), 187 (bp), 157 (40), 133 (39).

reactant | Tert-butyl-3-(3-chloro-4-fluorophenyl)-3-methoxypyrrolidin-1-carboxylate | 5.5 mmol, 1.81 g | C(C)(C)(C)OC(=O)N1CC(CC1)(OC)C1=CC(=C(C=C1)F)Cl | C16H21ClFNO3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-chloro-4-fluorophenyl)-3-methoxypyrrolidine | 1.11 g, 88% | ClC=1C=C(C=CC1F)C1(CNCC1)OC | C11H13ClFNO
